US07026304B2
A: 2-(trimethylsilyl)ethyl-3-(iodomethyl)benzoate
To a solution of 3-(chloromethyl)benzoyl chloride (2.5 g, 17.5 mmol) in dichloromethane (100 ml) was added 2-(trimethylsilyl)ethanol (1.72 ml, 12.0 mmol). Triethylamine, (9.21 ml, 66 mmol) was added and the reaction stirred overnight. The dichloromethane was evaporated and the crude material taken up in ether and washed with water. The ether layer was dried (sodium sulfate) and evaporated to give a slightly yellow mobile oil. The oil (2.7 g) was dissolved in acetone (30 ml) containing sodium iodide (1.5 g) and stirred for two hours. The solvent was removed and to the residue was added diethyl ether and the resulting mixture was filtered. The filtrate was evaporated to give a brown oil (3.68 g, 77%): 1H NMR (CDCl3) δ: 7.95, (1H, s), 7.85, (1H, d), 7.28, (1H, d), 7.17, (1H, t), 4.38, (2H, s), 4.33 (2H, m), 1.11 (2H, m), 0.00 (9H, s) ppm. Mass spectrum (M-I) 235.

reactant | 3-(chloromethyl)benzoyl chloride | 17.5 mmol, 2.5 g | ClCC=1C=C(C(=O)Cl)C=CC1 | C8H6Cl2O
reactant | 2-(trimethylsilyl)ethanol | 12.0 mmol, 1.72 ml | C[Si](CCO)(C)C | C5H14OSi
reactant | Triethylamine | 66 mmol, 9.21 ml | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 1.5 g | [I-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-(trimethylsilyl)ethyl-3-(iodomethyl)benzoate | 3.68 g, 77% | C[Si](CCOC(C1=CC(=CC=C1)CI)=O)(C)C | C13H19IO2Si
